US07307075B2
6-Chloro-4-(3-chloropropyl)-7-nitro-4H-benzo[1,4]oxazin-3-one (81MF2253b)
Crude 6-Chloro-7-nitro-4H-benzo[1,4]oxazin-3-one (81MF2253a) (2.60 g, 10.0 mmol), Cs2CO3 (4.88 g, 15.0 mmol) and 3-chloro-1-iodopropane (2.25 g, 11.0 mmol) were mixed according to GP6. CC (SiO2; Heptane/EtOAc 10:1-5) gave the title compound (81MF2253b) (1.23 g, 36%). 1H NMR (CDCl3) δ 7.66 (s, 1H), 7.20 (s, 1H), 4.70 (s, 2H), 4.12 (t, J=7.6 Hz, 2H), 3.67-3.59 (m, 2H), 2.21-2.13 (m, 2H); 13C NMR (CDCl3) δ 163.6, 143.5, 133.3, 133.2, 122.4, 117.2, 115.2, 67.4, 42.1, 39.6, 29.8.

reactant | 6-Chloro-7-nitro-4H-benzo[1,4]oxazin-3-one | 10.0 mmol, 2.60 g | ClC=1C(=CC2=C(NC(CO2)=O)C1)[N+](=O)[O-] | C8H5ClN2O4
reactant | Cs2CO3 | 15.0 mmol, 4.88 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-chloro-1-iodopropane | 11.0 mmol, 2.25 g | ClCCCI | C3H6ClI
solvent | Heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 6-Chloro-4-(3-chloropropyl)-7-nitro-4H-benzo[1,4]oxazin-3-one | 1.23 g, 36% | ClC=1C(=CC2=C(N(C(CO2)=O)CCCCl)C1)[N+](=O)[O-] | C11H10Cl2N2O4
